US09289419B2
(R)-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridin-3-yl)(3-hydroxy-3-(hydroxymethyl)azetidin-1-yl)methanone
(R)-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridin-3-yl)(3-methyleneazetidin-1-yl)methanone (50 mg, 0.125 mmol) and 4-methylmorpholine N-oxide (44 mg, 0.379 mmol) were dissolved in THF/Water (4:1, 2.0 ml) followed by the addition of Osmium tetroxide (1.38 mg, 0.006 mmol). Reaction mass was stirred for 16 h at 25° C., diluted with ethyl acetate and the organic layer was washed with water, NaOCl solution, followed by brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the title product as brown solid. MS (ESI): m/z 429.7 (M+H).

reactant | (R)-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridin-3-yl)(3-methyleneazetidin-1-yl)methanone | 0.125 mmol, 50 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)N2CC(C2)=C | C22H20F2N4O
reactant | 4-methylmorpholine N-oxide | 0.379 mmol, 44 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | THF Water | 2.0 ml | C1CCOC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Osmium tetroxide | 0.006 mmol, 1.38 mg | [Os](=O)(=O)(=O)=O
product | (R)-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridin-3-yl)(3-hydroxy-3-(hydroxymethyl)azetidin-1-yl)methanone | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)N2CC(C2)(CO)O | C22H22F2N4O3
